US06939871B2
4-(3-Fluoro-4-hydroxy-5-nitro-benzyl)-piperidine-1-carboxylic acid tert-butyl ester (D61)
A solution of 70% w/w nitric acid (0.08 g, 0.81 mmol) in glacial acetic acid (0.5 mL) was added dropwise to a stirred solution of 2-fluoro-4-piperidin-4-ylmethyl-phenol hydrogen sulfate (0.24 g, 0.81 mmol) and acetic anhydride (0.099 g, 0.097 mmol) at room temperature. The mixture was left to stir for 16 hours before it was evaporated in vacuo. The residue was dissolved in water (15 mL) and basified with sodium bicarbonate before being treated with triethylamine (2 mL) and di-tert-butyl dicarbonate (0.21 g, 0.97 mmol) in THF (10 mL). After 16 hours of stirring, the mixture was partitioned between ethyl acetate (80 mL) and water (60 mL). The aqueous layer was extracted with more ethyl acetate (80 mL). The combined organic layer was dried (Na2SO4) and evaporated in vacuo. Chromatography of the residue on silica eluting with ethyl acetate in hexane (10%-50%) gave the title compound (60 mg, 21%) as a yellow solid.

reactant | nitric acid | 0.81 mmol, 0.08 g | [N+](=O)(O)[O-] | HNO3
reactant | 2-fluoro-4-piperidin-4-ylmethyl-phenol hydrogen sulfate | 0.81 mmol, 0.24 g | S(=O)(=O)(O)OC1=C(C=C(C=C1)CC1CCNCC1)F | C12H16FNO4S
reactant | acetic anhydride | 0.097 mmol, 0.099 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | di-tert-butyl dicarbonate | 0.97 mmol, 0.21 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | 4-(3-Fluoro-4-hydroxy-5-nitro-benzyl)-piperidine-1-carboxylic acid tert-butyl ester | 60 mg, 21% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC(=C(C(=C1)[N+](=O)[O-])O)F | C17H23FN2O5
